US08445480B2
In a 5-ml microwave vial equipped was placed potassium carbonate (1.38 g), tert-butyl(piperidin-4-ylmethyl)carbamate (1.07 g), and 2-bromo-5-trifluoromethylpyridine (1.13 g) in methanol. This was heated to 120° C. for 30 min in a microwave reactor. The mixture was cooled and concentrated in vacuo, and the residue was taken up in ethyl acetate. This was filtered through a plug of silica gel, and the eluent was concentrated in vacuo to provide tert-butyl({1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}methyl)carbamate (1.45 g, 81%). This compound was taken up in 15 ml of dichloromethane and 15 ml of trifluoroacetic acid. The resultant mixture was stirred at room temperature for 2 h, and then concentrated and taken up in dichloromethane (20 ml) and saturated aqueous sodium bicarbonate. The mixture was extracted and the organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to provide 1.31 g (87%) of the title compound. Mass spectrum (ESI) 260.1 (M+1).

reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl(piperidin-4-ylmethyl)carbamate | 1.07 g | C(C)(C)(C)OC(NCC1CCNCC1)=O | C11H22N2O2
reactant | 2-bromo-5-trifluoromethylpyridine | 1.13 g | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
solvent | methanol | CO | CH4O
product | tert-butyl({1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}methyl)carbamate | 1.45 g, 81% | C(C)(C)(C)OC(NCC1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F)=O | C17H24F3N3O2
